US04447361
[2-[(3-Amino-2-pyridinyl)amino]phenyl](3-pyridinyl)methanone
The title compound is prepared by reacting (2-aminophenyl)(3-pyridinyl)methanone as prepared by Abramovitch R. A. & Tertzakian, G., Tetrahedron Letters, 1963, 1511-15 and Abramovitch, R. A. et al., Can. J. Chem. 43(4), 725-31 (1965) with 3-amino-2-chloropyridine.

reactant | (2-aminophenyl)(3-pyridinyl)methanone | NC1=C(C=CC=C1)C(=O)C=1C=NC=CC1 | C12H10N2O
reactant | 3-amino-2-chloropyridine | NC=1C(=NC=CC1)Cl | C5H5ClN2
product | [2-[(3-Amino-2-pyridinyl)amino]phenyl](3-pyridinyl)methanone | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C=1C=NC=CC1 | C17H14N4O
